US05461036
To 11-bromoundecanoic acid dissolved in acetonitrile (50 ml ) were added sodium iodide (2 g) and tetra-n-butylammonium iodide (1 g), and the mixture was heated under reflux for 4 hours. The reaction mixture was filtered, concentrated and distributed into ethyl acetate and water, and the ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated to give iodoundecanoic acid (0.89 g).

reactant | 11-bromoundecanoic acid | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | sodium iodide | 2 g | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | tetra-n-butylammonium iodide | 1 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | iodoundecanoic acid | 0.89 g | IC(C(=O)O)CCCCCCCCC | C11H21IO2
